US08648068B2
114.1 4-[4-Fluoro-2-((3S,5S)-5-hydroxymethyl-pyrrolidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester
Trifluoroacetic acid (1 ml) was added to a solution of 4-[2-((3S,5S)-1-tert-butoxycarbonyl-5-hydroxymethyl-pyrrolidin-3-yloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide (754 mg) in dichloromethane (10 ml). The reaction mixture was stirred for 4 h and a further aliqout of trifluoroacetic acid was added. The reaction mixture was stirred for 1 h again. The solvent was removed in vacuo. The mixture was diluted with dichloromethane and washed with 10% aq. K2CO3. The organic layer was concentrated and the residue was purified by flash column chromatography (silica gel, solvent: 100% dichloromethane→20:1:0,1 dichloromethane: MeOH: NH4OH)

reactant | Trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-[2-((3S,5S)-1-tert-butoxycarbonyl-5-hydroxymethyl-pyrrolidin-3-yloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide | 754 mg | C(C)(C)(C)OC(=O)N1C[C@H](C[C@H]1CO)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N | C24H28FN5O5S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-[4-Fluoro-2-((3S,5S)-5-hydroxymethyl-pyrrolidin-3-yloxy)-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | COC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O[C@@H]2CN[C@@H](C2)CO)S1)C | C20H21FN4O4S
